US09315458B2
D) 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoic acid
To a solution of 3-fluoro-2-hydroxy-4-methoxybenzoic acid (7.30 g) in DMF (70.0 mL) was added NBS, and the mixture was stirred at 25° C. for 2 hr. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate. The mixture was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (8.86 g).

reactant | 3-fluoro-2-hydroxy-4-methoxybenzoic acid | 7.30 g | FC=1C(=C(C(=O)O)C=CC1OC)O | C8H7FO4
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 70.0 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoic acid | 8.86 g | BrC=1C(=C(C(=C(C(=O)O)C1)O)F)OC | C8H6BrFO4
